US07939531B2
A mixture of 1-[2-(2-chloro-pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.030 g, 0.095 mmol), 0.100 mL of pyrrolidine and 1.5 mL of N-methylpyrollidinone was stirred at 150° C. in a pressure tube for 3 h. The resulting black solution was partitioned between 30 mL of ethyl acetate and 40 mL of water. The organic layer was washed with three 30 mL portions of water, dried over MgSO4, filtered and concentrated to a residue. Silica gel chromatography (0->60% EtOAc/hexanes) afforded 0.020 g (61%) of 2,2-dimethyl-1-[2-(2-pyrrolidin-1-yl-pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one as a yellow solid.

reactant | 1-[2-(2-chloro-pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.095 mmol, 0.030 g | ClC1=NC=CC(=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C16H15ClN4O
reactant | pyrrolidine | 0.100 mL | N1CCCC1 | C4H9N
solvent | N-methylpyrollidinone | 1.5 mL | CN1C(CCC1)=O | C5H9NO
product | 2,2-dimethyl-1-[2-(2-pyrrolidin-1-yl-pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.020 g, 61% | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=NC=C2)N2CCCC2)(C)C | C20H23N5O
